US07265120B2
Under ice-cooling, a solution of triethylamine (16.8 ml) of CH2Cl2 (30 ml) was added dropwise to a suspension of 6-(1-amino-2-oxo-2-phenylethyl)-2-isopropyl-3(2H)-pyridazinone hydrochloride (15.42 g) and methyl chloroformate (4.65 ml) in CH2Cl2 (155 ml) and stirred at the same temperature for 30 minutes. The mixture was washed with water, 1N HCl and sat. aq. NaHCO3 solution, dried over MgSO4 and concentrated under reduced pressure to give a residue. The residue was subjected to column chromatography on silica gel eluting with a mixture of n-hexane and EtOAc (30:70 v/v) to give methyl [1-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-oxo-2-phenylethyl]carbamate as a syrup (15.78 g), which was identical to the authentic sample (the product of Preparation 5) by IR, MS and NMR spectra.

reactant | triethylamine | 16.8 ml | C(C)N(CC)CC | C6H15N
reactant | 6-(1-amino-2-oxo-2-phenylethyl)-2-isopropyl-3(2H)-pyridazinone hydrochloride | 15.42 g | Cl.NC(C(C1=CC=CC=C1)=O)C=1C=CC(N(N1)C(C)C)=O
reactant | methyl chloroformate | 4.65 ml | ClC(=O)OC | C2H3ClO2
reactant | n-hexane | CCCCCC | C6H14
solvent | CH2Cl2 | 155 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl [1-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-oxo-2-phenylethyl]carbamate | 15.78 g | C(C)(C)N1N=C(C=CC1=O)C(C(C1=CC=CC=C1)=O)NC(OC)=O | C17H19N3O4
